US07579140B2
4.3 Preparation of 3-ethyl-2-methyl-6-nitrobenzothiazolium iodide
To 2-methyl-6-nitrobenzothiazole (0.36 g) was added ethyl iodide (1.5 ml) and dichlorobenzene (20 ml). The mixture was heated to 120° C. for 2 days and then allowed to cool to room temperature. Ethyl acetate was added and the resulting precipitate removed by filtration. Drying in a vacuum oven gave the desired material (80 mg).

reactant | 2-methyl-6-nitrobenzothiazole | 0.36 g | CC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H6N2O2S
reactant | ethyl iodide | 1.5 ml | C(C)I | C2H5I
reactant | dichlorobenzene | 20 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-ethyl-2-methyl-6-nitrobenzothiazolium iodide | 80 mg | [I-].C(C)[N+]1=C(SC2=C1C=CC(=C2)[N+](=O)[O-])C | InChI=1S/C10H11N2O2S.HI/c1-3-11-7(2)15-10-6-8(12(13)14)4-5-9(10)11;/h4-6H,3H2,1-2H3;1H/q+1;/p-1
